US03989507
EXAMPLE 4 1-Methyl-3-(1-methylethyl)-pyrido(2,3-c)(1,2,6)-thiadiazin-4(3H)-one-2,2-dioxide
3-(1-Methylethyl)pyrido(2,3-c)(1,2,6)thiadiazin-4(3H)-one-2,2-dioxide (5.0 grams; 0.0208 mole) was mixed with 50 ml. of diethylene glycol dimethyl ether. The system was flushed with nitrogen and sodium hydride (1.0 gram; 0.02 mole), previously washed with n-hexane, was added portionwise to the reaction mixture. After the effervescence of hydrogen ceased, 2.2 ml. of dimethyl sulfate (0.023 mole, 1.33 g/ml) was added and the reaction mixture heated at reflux temperatures for a period of 4 hours. During the reaction, the color of the reaction mixture changed from light yellow to deep red and gradually back to yellow.

reactant | 3-(1-Methylethyl)pyrido(2,3-c)(1,2,6)thiadiazin-4(3H)-one-2,2-dioxide | 0.0208 mole, 5.0 grams | CC(C)N1C(C2=C(NS1(=O)=O)N=CC=C2)=O | C9H11N3O3S
reactant | sodium hydride | 0.02 mole, 1.0 gram | [H-].[Na+]
reactant | dimethyl sulfate | 0.023 mole | S(=O)(=O)(OC)OC | C2H6O4S
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 1-Methyl-3-(1-methylethyl)-pyrido(2,3-c)(1,2,6)-thiadiazin-4(3H)-one-2,2-dioxide | CN1S(N(C(C2=C1N=CC=C2)=O)C(C)C)(=O)=O | C10H13N3O3S
